US07141586B2
N-(cis-4-Aminocyclohexyl)-2-[3-(methylsulfanyl)phenoxy]nicotinamide hydrochloride (100 mg, 0.25 mmol) was dissolved in dimethylformamide (1.7 ml) and triethylamine (106 μl, 0.76 mmol) was added followed by cyclopropylacetic acid (28 mg, 0.25 mmol), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (97 mg, 0.51 mmol) and 1-hydroxybenzotriazole (38 mg, 0.28 mmol). The reaction was stirred under nitrogen at room temperature for 18 h and the solvent was removed under reduced pressure. The residue was suspended in saturated aqueous sodium bicarbonate solution (5 ml) and extracted with ethyl acetate (3×10 ml). The organic phase was washed with brine (5 ml), dried over MgSO4 and the solvent was removed under reduced pressure. The residue was triturated with diethyl ether to give N-{cis-4-[(cyclopropylacetyl)amino]cyclohexyl}-2-[3-(methylsulfanyl)phenoxy]nicotinamide (99 mg) as a white solid.

reactant | N-(cis-4-Aminocyclohexyl)-2-[3-(methylsulfanyl)phenoxy]nicotinamide hydrochloride | 0.25 mmol, 100 mg | Cl.N[C@H]1CC[C@H](CC1)NC(C1=C(N=CC=C1)OC1=CC(=CC=C1)SC)=O
reactant | triethylamine | 0.76 mmol, 106 μl | C(C)N(CC)CC | C6H15N
reactant | cyclopropylacetic acid | 0.25 mmol, 28 mg | C1(CC1)CC(=O)O | C5H8O2
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.51 mmol, 97 mg | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole | 0.28 mmol, 38 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
solvent | dimethylformamide | 1.7 ml | CN(C=O)C | C3H7NO
product | N-{cis-4-[(cyclopropylacetyl)amino]cyclohexyl}-2-[3-(methylsulfanyl)phenoxy]nicotinamide | 99 mg | C1(CC1)CC(=O)N[C@H]1CC[C@H](CC1)NC(C1=C(N=CC=C1)OC1=CC(=CC=C1)SC)=O | C24H29N3O3S
